US05258381
(Hydroxyethyl)ethylenediamine (25 ml) is dissolved in 1:1 ethyl alcohol-water (85 mL) and heated to 40°-50° C. Carbon disulfide (16.5 ml) is added dropwise over a period of about 15 minutes. After about half of the amount is added, the exothermic reaction starts and the reaction mixture solidifies. After the addition of all of the carbon disulfide, the mixture is refluxed gently for about 1 hour. Concentrated hydrochloric acid (2 ml) is then added and the reaction mixture is refluxed overnight. The solid which separates after the addition of carbon disulfide redissolves. The solution is cooled in an ice bath, and the solid separates, is filtered out, washed well with isopropyl alcohol and t-butyl methyl ether and dried to give 23.3 g of 1-(2-hydroxyethyl)-2-imidazolinethione, melting point 137°-138° C.

reactant | (Hydroxyethyl)ethylenediamine | 25 ml | OCCNCCN | C4H12N2O
reactant | Carbon disulfide | 16.5 ml | C(=S)=S | CS2
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | ethyl alcohol water | 85 mL | C(C)O.O
product | 1-(2-hydroxyethyl)-2-imidazolinethione | 23.3 g | OCCN1C=NC(C1)=S | C5H8N2OS
